US04218477
B. Synthesis of 2-amino-2'-ethyl-6'-methylpropionanilide.
A slurry of 20.9 g 2-bromo-2'-ethyl-6'-methyl propionanilide, 125 ml 95% alcohol, and 75 ml concd. ammonia was saturated with gaseous ammonia and was heated to 55° C. for 30 hours in a pressure vessel. The reaction mixture was filtered and the filtrate concentration in vacuo. The residue was dissolved in 2M hydrochloric acid and was extracted with ethyl acetate. The acid phase was made alkaline to pH 9 and was extracted with methylene chloride to give 15.5 g of a crystallizing oil. Recrystallized from ether-petroleum ether, the compound (2-amino-2'-ethyl-6'-methylpropionanilide) melted at 68.5°-70° C. Calcd. for C12H18N2O: C 69.8, H 8.79, N 13.6. Found: C 69.7, N 8.72, N 13.5.

reactant | 2-bromo-2'-ethyl-6'-methyl propionanilide | 20.9 g | BrC(C(=O)NC1=C(C=CC=C1C)CC)C | C12H16BrNO
reactant | ammonia | N | H3N
product | 2-amino-2'-ethyl-6'-methylpropionanilide | 15.5 g | NC(C(=O)NC1=C(C=CC=C1C)CC)C | C12H18N2O
